US08211919B2
To a solution of 5-(4-pyridinyl)indoline (80 mg) in acetonitrile (10 mL) was added phenyl isocyanate (53 mg) and the mixture was stirred at 80° C. for 6 hours. The mixture was evaporated to dryness and the residue was purified by column chromatography on silica gel eluting with ethyl acetate/methanol (10:1) to give N-phenyl-5-(4-pyridinyl)-1-indolinecarboxamide (60 mg) as a light-brown powder.

reactant | 5-(4-pyridinyl)indoline | 80 mg | N1=CC=C(C=C1)C=1C=C2CCNC2=CC1 | C13H12N2
reactant | phenyl isocyanate | 53 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-phenyl-5-(4-pyridinyl)-1-indolinecarboxamide | 60 mg | C1(=CC=CC=C1)NC(=O)N1CCC2=CC(=CC=C12)C1=CC=NC=C1 | C20H17N3O
